US06204277B1
Diethyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidenemalonate
4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde (8.0 g, 26.0 mmol) synthesized according to the method described in WO95/18125, diethyl malonate (4.79 g, 29.9 mmol), acetic acid (1.04 ml) and piperidine (1.03 ml) were mixed. While removing water through Dean-Stark trap, the mixture was refluxed under heating. Three and a half hours later, toluene was evaporated and the obtained residue was recrystallized from ethyl acetate-hexane to give the title compound (9.55 g, yield 82%) as pale-brown white crystals.

reactant | 4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde | 26.0 mmol, 8.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C19H17NO3
reactant | diethyl malonate | 29.9 mmol, 4.79 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 1.03 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 1.04 ml | C(C)(=O)O | C2H4O2
product | Diethyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidenemalonate | 9.55 g, yield 82% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C(C(=O)OCC)C(=O)OCC)C=C1 | C26H27NO6
